US07425568B2
2-(3,5-Difluorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 800 mg of 2-(3,5-difluorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.87 (s, 1H), 7.21-7.17 (m, 3H), 6.88 (d, 1H, J 2.4 Hz), 6.64 (d, 1H, J 8.7 Hz), 6.55 (dd, 1H, J 2.4, 8.7 Hz), 5.47 (d, 1H, J 7.0 Hz), 5.17 (d, 1H, J 10.5 Hz), 4.86 (m, 1H), 2.32 (m, 1H), 1.85 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(3,5-difluorophenyl)-6-hydroxychroman-4-one | 800 mg | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10F2O3
product | 2-(3,5-Difluorophenyl)chroman-4,6-diol | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
